US08053461B2
N-acetyloxindole (1 equivalent), 5-hydroxymethyl-2-furaldehyde (0.5 equivalent) and piperidine (0.2 equivalent) were dissolved in ethanol such that 1 mL of ethanol was used per 1 μmol of the total amount of the compounds, and the resulting mixture was stirred at room temperature for 12 hours. After completion of the reaction, the resulting precipitate was collected by filtration, washed with cooled ethanol several times and dried, whereby 3-((5-(hydroxymethyl)furan-2-yl) methylene)-N-acetyl-2-oxoindoline was obtained.

reactant | N-acetyloxindole | 1 equivalent | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | 5-hydroxymethyl-2-furaldehyde | 0.5 equivalent | OCC1=CC=C(O1)C=O | C6H6O3
reactant | piperidine | 0.2 equivalent | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-((5-(hydroxymethyl)furan-2-yl) methylene)-N-acetyl-2-oxoindoline | OCC1=CC=C(O1)C=C1C(N(C2=CC=CC=C12)C(C)=O)=O | C16H13NO4
